US07453010B2
A solution of 13.7 g of trans-4-[4-(benzyl-amino)cyclohexyl]phenol hydrochloride (48.7 mmol) and of 11.69 g of di(tert-butyl) dicarbonate (53.3 mmol) in ethyl acetate (295 ml) is heated at reflux for 4 h. The solvents are subsequently evaporated under reduced pressure and the tert-butyl trans-benzyl[4-(4-hydroxyphenyl)cyclohexyl]carbamate is obtained in the form of crystals (12.68 g, 68.2%) after purification on silica gel (eluent: dichloromethane/methanol 98/2). [M+H+]=382.4

reactant | trans-4-[4-(benzyl-amino)cyclohexyl]phenol hydrochloride | 48.7 mmol, 13.7 g | Cl.C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O
reactant | di(tert-butyl) dicarbonate | 53.3 mmol, 11.69 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 295 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl trans-benzyl[4-(4-hydroxyphenyl)cyclohexyl]carbamate | C(C1=CC=CC=C1)N(C(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C24H31NO3
